US08440662B2
Step 2: 4-amino-2-fluoro-N,N-dimethyl-benzamide
To a 50 mL round bottom flask was added 2-fluoro-N,N-dimethyl-4-nitro benzamide (2.8 g, 0.0132 mol) and EtOH (20 mL). To the same flask, SnCl2.2H2O (11.9 g, 0.0528 mol) was added and the reaction mixture was maintained at 85° C. for 2 h. The reaction mass was cooled to room temperature and the volatiles were evaporated under reduced pressure. The residue was dissolved in water and ethyl acetate. Aqueous saturated sodium bicarbonate was added to adjust to a pH of 7.0. The reaction mixture was filtered through a pad of Celite® reagent and washed with ethyl acetate. The organic layer was separated, dried over anhydrous sodium sulfate and evaporated under reduced pressure to obtain the title compound [2.5 g, 100%]. 1H NMR (300 MHz, CDCl3): δ 7.21 (t, J=7.8 Hz, 1H), 6.46 (dd, J′=8.4 Hz, J″=2.4 Hz, 1H), 6.34 (d, J′=11.4 Hz, J″=1.8 Hz, 1H), 3.95 (brs, 2H), 3.08 (s, 3H), 2.95 (d, J=1.8 Hz, 3H); LC-MS (ESI): Calculated mass: 182.1; Observed mass: 183.1 (RT: 0.17 min).

reactant | 2-fluoro-N,N-dimethyl-4-nitro benzamide | 0.0132 mol, 2.8 g | FC1=C(C(=O)N(C)C)C=CC(=C1)[N+](=O)[O-] | C9H9FN2O3
reactant | SnCl2.2H2O | 0.0528 mol, 11.9 g | O.O.Cl[Sn]Cl
solvent | EtOH | 20 mL | CCO | C2H6O
product | 4-amino-2-fluoro-N,N-dimethyl-benzamide | 2.5 g, 100% | NC1=CC(=C(C(=O)N(C)C)C=C1)F | C9H11FN2O
